US08835419B2
Synthesis of (R)-(1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)(morpholino)methanone (see FIG. 13)
To a stirred solution of the (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylic acid (0.0.05 g, 0.12 mmol) and N-methylmorpholine (0.01 g, 0.12 mmol) in DMF (1.5 mL) was added HATU (0.049 g, 0.13 mmol) and iPr2NEt (0.75 g, 5.8 mmol). The reaction mixture was stirred at room temperature for 2 h, and quenched with deionzied water. The aqueous layer was extracted with diethyl ether (2×10 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The crude product purified by reverse phase HPLC (C18 column, acetonitrile-H2O with 0.1% TFA as eluent) to give a white solid (0.025 g, 0.050 mmol, 43%). 1H NMR (400 MHz, CDCl3) δ 7.36-7.33 (m, 1H), 7.17 (dd, J=1.6, 8.4 Hz, 1H), 7.06 (d, J=8.8 Hz, 1H), 6.18 (dd, J=2.8, 8.4 Hz, 1H), 5.78 (d, J=2.4 Hz, 1H), 4.90 (ddd, J=6.4, 6.4, 12.4 Hz, 1H), 4.65 (d, J=5.2 Hz, 1H), 3.68-3.63 (m, 5H), 3.50-3.47 (m, 3H), 2.64-2.48 (m, 3H), 1.92-1.80 (m, 5H), 1.71-1.67 (m, 2H), 1.53 (d, J=6.4 Hz, 3H); MS: (ES) m/z calculated for C24H29Cl3N3O2 [M+H]+496.1. found 496.3.

reactant | (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidine-4-carboxylic acid | 0.12 mmol | ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)O)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C20H21Cl3N2O2
reactant | N-methylmorpholine | 0.12 mmol, 0.01 g | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.13 mmol, 0.049 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 5.8 mmol, 0.75 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (R)-(1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)(morpholino)methanone | 0.050 mmol, 0.025 g, 43% | ClC1=C(C=C(C=C1)N1CCC(CC1)C(=O)N1CCOCC1)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C24H28Cl3N3O2
